### PR TITLE
[Merged by Bors] - refactor(RingTheory/Localization/Integral): Simplify `integerNormalization`

### PR DESCRIPTION
**Pull request by justus-springer**
This PR does the following:

- Add two lemmas `exists_integer_polynomial_multiple` and `exists_integer_polynomial_multiple_and_support_subset` which are easy consequence of `exists_integer_multiple` and `exists_support_eq_of_mem_lifts`, using the `Polynomial.isLocalization` instance. 
- Simplify the definition of `integerNormalization` to directly choose an integer multiple using these lemmas, without having to construct its coefficients by hand.
- As a consequence, deprecate `coeffIntegerNormalization`, `coeffIntegerNormalization_of_coeff_zero`, `coeffIntegerNormalization_mem_support` and `integerNormalization_coeff` which were only used in that construction.
- Rename `integerNormalization_map_to_map` to `integerNormalization_spec` (also providing a deprecated alias) and make the statement include `(integerNormalization M p).support ⊆ p.support`.
- Simplify the proofs of `integerNormalization_spec` and `integerNormalization_eq_zero_iff` using the new definition.

---

- [x] depends on: #35132
- [x] depends on: #35130

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 1]
```diff
@@ -43,60 +39,60 @@ variable [IsLocalization M S]
...
     coeffIntegerNormalization M p i = 0 := by
   simp only [coeffIntegerNormalization, h, mem_support_iff, not_true, Ne,
     dif_neg, not_false_iff]
 
+set_option linter.deprecated false in
+@[deprecated "deprecated without replacement" (since := "2026-02-05")]
 theorem coeffIntegerNormalization_mem_support (p : S[X]) (i : ℕ)
     (h : coeffIntegerNormalization M p i ≠ 0) : i ∈ p.support := by
   contrapose h
   rw [coeffIntegerNormalization, dif_neg h]
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Integral.lean]: These probably should get replacements in terms of `integerNormalization` (which might require you to fiddle with `exists_integer_polynomial_multiple` to make it work).

Comment (justus-springer) [reply Mathlib/RingTheory/Localization/Integral.lean]: I'm realizing that with the new definitions, this is no longer true. The difference is that with this definition, I'm choosing the entire polynomial at once, whereas with `coeffIntegerNormalization`, the coefficient was explicitly set to zero when the coefficient in `p` was zero. With my approach, I cannot prove that `p.coeff i = 0` implies `(integerNormalization p).coeff i = 0`, I can only prove its a zero divisor. This fact is never used in mathlib but it's true that my definition would make it slightly weaker.

Comment (erdOne) [reply Mathlib/RingTheory/Localization/Integral.lean]: Yes but you can recover this by changing `exists_integer_polynomial_multiple` to require `p.coeff i = 0 -> q.coeff i = 0`. In fact it should probably say `p ∈ lifts _` and one should prove a variant of `Polynomial.mem_lifts_and_degree_eq` but with `p.coeff i = 0 -> q.coeff i = 0`.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 2]
```diff
@@ -40,63 +36,69 @@ open Polynomial
 
 variable [IsLocalization M S]
 
-open scoped Classical in
+attribute [local instance] Polynomial.algebra Polynomial.isLocalization in
+theorem exists_integer_polynomial_multiple (p : S[X]) :
+    ∃ b : M, IsInteger R[X] ((b : R) • p) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Integral.lean]:
```suggestion
    ∃ b ∈ M, IsInteger R[X] (b • p) := by
```
I think this is better than working with subtypes.

Same below.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 3]
```diff
@@ -40,63 +36,69 @@ open Polynomial
...
+  exact ⟨b, q', h₁, h₂ ▸ support_smul b p⟩
+
+/-- `integerNormalization p` normalizes `p` to have integer coefficients
+by clearing the denominators -/
+noncomputable def integerNormalization (p : S[X]) : R[X] :=
+  (exists_integer_polynomial_multiple_and_support_subset M p).choose_spec.choose
+
+theorem integerNormalization_spec (p : S[X]) :
+    ∃ b : M, (integerNormalization M p).map (algebraMap R S) = (b : R) • p ∧
+      (integerNormalization M p).support ⊆ p.support :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Integral.lean]: The spec lemma should probably be split up into
`∃ b : M, (integerNormalization M p).map (algebraMap R S) = (b : R) • p` and `(integerNormalization M p).support ⊆ p.support`, since `b` has nothing to do with the second part.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 4]
```diff
@@ -40,65 +36,73 @@ open Polynomial
 
 variable [IsLocalization M S]
 
-open scoped Classical in
+attribute [local instance] Polynomial.algebra Polynomial.isLocalization in
+theorem exists_integer_polynomial_multiple (p : S[X]) : ∃ b ∈ M, IsInteger R[X] (b • p) := by
+  obtain ⟨⟨_, b, hb, rfl⟩, h⟩ := (exists_integer_multiple (Submonoid.map C M) p)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/Integral.lean]:
```suggestion
  obtain ⟨⟨_, b, hb, rfl⟩, h⟩ := exists_integer_multiple (Submonoid.map C M) p
```

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 5]
```diff
@@ -40,65 +36,73 @@ open Polynomial
...
+  use b, hb
+  rw [Subtype.coe_mk, C_eq_algebraMap, algebraMap_smul] at h
+  exact h
+
+theorem exists_integer_polynomial_multiple_and_support_subset (p : S[X]) :
+    ∃ b ∈ M, ∃ (q : R[X]), q.map (algebraMap R S) = b • p ∧ q.support ⊆ p.support := by
+  obtain ⟨b, hb, hq⟩ := exists_integer_polynomial_multiple M p
+  obtain ⟨q', h₁, h₂⟩ := exists_support_eq_of_mem_lifts (f := (algebraMap R S)) hq
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/Integral.lean]:
```suggestion
  obtain ⟨q', h₁, h₂⟩ := exists_support_eq_of_mem_lifts hq
```
If you want to keep it for readability, then the extra parens can be removed.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 6]
```diff
@@ -117,16 +121,10 @@ variable [CommRing C]
...
-  obtain ⟨⟨b, nonzero⟩, hb⟩ := integerNormalization_spec (nonZeroDivisors A) p
-  constructor <;> intro h i
-  · rw [coeff_zero, ← to_map_eq_zero_iff (K := K), hb i, h i, coeff_zero, smul_zero]
-  · have hi := h i
-    rw [Polynomial.coeff_zero, ← @to_map_eq_zero_iff A _ K, hb i, Algebra.smul_def] at hi
-    apply Or.resolve_left (eq_zero_or_eq_zero_of_mul_eq_zero hi)
-    intro h
-    apply mem_nonZeroDivisors_iff_ne_zero.mp nonzero
-    exact to_map_eq_zero_iff.mp h
+  let ⟨b, hb₁, hb₂⟩ := integerNormalization_spec (nonZeroDivisors A) p
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/Integral.lean]:
```suggestion
  obtain ⟨b, hb₁, hb₂⟩ := integerNormalization_spec (nonZeroDivisors A) p
```
Very minor and very optional, but I feel it is more standard to use `obtain` than `let` when destructuring an `∃`.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 7]
```diff
@@ -40,65 +36,73 @@ open Polynomial
 
 variable [IsLocalization M S]
 
-open scoped Classical in
+attribute [local instance] Polynomial.algebra Polynomial.isLocalization in
+theorem exists_integer_polynomial_multiple (p : S[X]) : ∃ b ∈ M, IsInteger R[X] (b • p) := by
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/Integral.lean]: I think it would make sense to mark this theorem and the next one as private and let `integerNormalization`, `integerNormalization_spec` and `integerNormalization_support` be the public API.

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 8]
```diff
@@ -40,65 +36,73 @@ open Polynomial
...
+  obtain ⟨⟨_, b, hb, rfl⟩, h⟩ := (exists_integer_multiple (Submonoid.map C M) p)
+  use b, hb
+  rw [Subtype.coe_mk, C_eq_algebraMap, algebraMap_smul] at h
+  exact h
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/Integral.lean]:
```suggestion
  rwa [Subtype.coe_mk, C_eq_algebraMap, algebraMap_smul] at h
```

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 7 above)
Comment (justus-springer) [reply Mathlib/RingTheory/Localization/Integral.lean]: This doesn't seem to be possible, as it gives me an error at line 54, when defining `integerNormalization`:

```
▼ 55:4-55:57: error:
Unknown identifier `exists_integer_polynomial_multiple_and_support_subset`

Note: A private declaration `exists_integer_polynomial_multiple_and_support_subset` (from the current module) exists but would need to be public to access here.
```

Comment (justus-springer) [reply Mathlib/RingTheory/Localization/Integral.lean]: `@[no_expose]` was the solution, which I was ignorant about.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 9]
```diff
@@ -40,65 +36,68 @@ open Polynomial
...
+@[deprecated integerNormalization (since := "2026-02-05")]
 noncomputable def coeffIntegerNormalization (p : S[X]) (i : ℕ) : R :=
-  if hi : i ∈ p.support then
-    Classical.choose
-      (Classical.choose_spec (exist_integer_multiples_of_finset M (p.support.image p.coeff))
-        (p.coeff i) (Finset.mem_image.mpr ⟨i, hi, rfl⟩))
-  else 0
+  (integerNormalization M p).coeff i
 
+set_option linter.deprecated false in
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/Integral.lean:67]: What's the point of this?

File: Mathlib/RingTheory/Localization/Integral.lean [hunk 10]
```diff
@@ -40,65 +36,68 @@ open Polynomial
...
+@[deprecated integerNormalization_support (since := "2026-02-05")]
 theorem coeffIntegerNormalization_of_coeff_zero (p : S[X]) (i : ℕ) (h : coeff p i = 0) :
-    coeffIntegerNormalization M p i = 0 := by
-  simp only [coeffIntegerNormalization, h, mem_support_iff, not_true, Ne,
-    dif_neg, not_false_iff]
+    coeffIntegerNormalization M p i = 0 :=
+  notMem_support_iff.mp <| Finset.not_mem_subset (integerNormalization_support M p) <|
+    notMem_support_iff.mpr h
 
+set_option linter.deprecated false in
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/Integral.lean:74]: Ditto

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 9 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Localization/Integral.lean:67]: Since the declaration is about a deprecated declaration, you have to silence the linter here, but it’s OK since the declaration is also deprecated

File: Mathlib/RingTheory/Localization/Integral.lean (hunk 10 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Localization/Integral.lean:74]: Ditto
